US07214798B2
10.1. 2-[1-(6-Chloro-2-quinolyl)-4-piperidyl]ethanol
The process is performed as described in Example 4 (step 4.1). Starting with 2 g (10.10 mmol) of 2,6-dichloroquinoline and 1.44 g (11.10 mmol) of 2-(4-piperidyl)ethanol, and after chromatography on silica gel, eluting with a 98/2 mixture of dichloromethane and methanol, 2.54 g of pure product are obtained in the form of a white solid.

reactant | 2,6-dichloroquinoline | 10.10 mmol, 2 g | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 2-(4-piperidyl)ethanol | 11.10 mmol, 1.44 g | N1CCC(CC1)CCO | C7H15NO
product | 2-[1-(6-Chloro-2-quinolyl)-4-piperidyl]ethanol | ClC=1C=C2C=CC(=NC2=CC1)N1CCC(CC1)CCO | C16H19ClN2O
